US07449484B2
e) 2-tert-Butyl-4-naphthalen-2-yl-5-pyridin-4-yl-imidazole
In a heavy-walled pressure vessel 4-(2-tert-Butyl-5-iodo-3-H-imidazol-4-yl)-pyridine (100 milligrams (hereinafter “mg”), 0.3 mmol) and tetrakis-triphenylphosphine palladium (0) catalyst was dissolved in toluene (2-3 ml) and argon was bubbled through the solution while the other reagents were added: 1-naphthyl boronic acid (86 mg, 0.5 mmol), solid NaHCO3 (84 mg), water (500 uL), EtOH (500 uL). The vessel was sealed and the reaction heated to 100° overnight. The reaction mixture was partitioned between 5% NaHCO3 and EtOAc and extracted several times with EtOAc. The combined organic layers were washed with brine, dried over MgSO4, filtered, and evaporated. The crude product was chromatographed on silica gel (chromatotron, eluting with 1-4% MeOH/CH2Cl2) to give the title compound as a yellow solid. (58 mg, 59%). mp 218-220°; MS m/e: 328 [M+H]+, 326 [M−H]−; 1H NMR(400 MHz, CDCl3) δ 9.63(br s, 1H), 8.16(app d, J=4.8 Hz, 2H), 7.92(br d, J=8.3 Hz, 2H), 7.64 (br d, 1H), 7.52 (m, 3H), 7.41 (t, J=6 Hz, 1H), 7.29 (br s, 2H), 1.49 (s, 9H).

reactant | 4-(2-tert-Butyl-5-iodo-3-H-imidazol-4-yl)-pyridine | 0.3 mmol, 100 milligrams | C(C)(C)(C)C1=NC(=C(N1)C1=CC=NC=C1)I | C12H14IN3
reactant | 1-naphthyl boronic acid | 0.5 mmol, 86 mg | C1(=CC=CC2=CC=CC=C12)B(O)O | C10H9BO2
reactant | NaHCO3 | 84 mg | C(=O)(O)[O-].[Na+]
reactant | water | 500 uL | O | H2O
solvent | toluene | 2-3 ml | C1(=CC=CC=C1)C | C7H8
solvent | EtOH | 500 uL | CCO | C2H6O
product | 2-tert-Butyl-4-naphthalen-2-yl-5-pyridin-4-yl-imidazole | C(C)(C)(C)C=1NC(=C(N1)C1=CC2=CC=CC=C2C=C1)C1=CC=NC=C1 | C22H21N3
